US05441955
7-Chloroindolo[2,1-b]quinazoline-6,12-dione
Using the procedure in Example 12 and substituting isatoic anhydride for 5-chloroisatoic anhydride and 4-chloroisatin for 5-fluoroisatin gave the title compound in 16% yield: mp 294°-295.7° C.; 1H NMR (300 MHz, DMSO-d6) δ 8.49 (d, 1H) 8.33 (d, 1H) 7.97 (d, 2H) 7.81-7.90 (m, 1H) 7.72-7.80 (m, 1H) 7.52 (d, 1H); MS (M+H)+ 283.

reactant | 5-chloroisatoic anhydride | ClC1=CC=C2C(C(=O)OC(N2)=O)=C1 | C8H4ClNO3
reactant | 4-chloroisatin | ClC1=C2C(C(NC2=CC=C1)=O)=O | C8H4ClNO2
reactant | 5-fluoroisatin | FC=1C=C2C(C(NC2=CC1)=O)=O | C8H4FNO2
product | 7-Chloroindolo[2,1-b]quinazoline-6,12-dione | 16% yield | ClC1=C2C(C3=NC4=CC=CC=C4C(N3C2=CC=C1)=O)=O | C15H7ClN2O2
